US08975254B2
b) 1-(5-(3,4-dichlorophenyl)furan-2-yl)propan-2-amine hydrochloride
To a solution of (E)-1-(5-(3,4-dichlorophenyl)furan-2-yl)prop-1-en-2-amine (2.72 g, 9.12 mmol) in MeOH (135 ml), EtOAc (100 ml) and 6.5% HCl (g) in MeOH (32 ml) was added 10% Pd/C (1.09 g). The mixture was hydrogenated under pressure (3.3 bar, Parr hydrogenating apparatus) for 7 h. The reaction mixture was filtered through Celite, evaporated and purified by chromatography (CombiFlash, silica column, eluent: 5-20% MeOH/DCM) to yield 0.811 g (29%) of the title compound as an HCl salt. 1H-NMR (400 MHz; d6-DMSO): δ 1.21 (d, 3H), 2.90 (dd, 1H), 3.04 (dd, 1H), 3.55 (q, 1H), 6.44 (d, 1H), 7.09 (d, 1H), 7.68 (m, 2H), 7.93 (m, 1H).

reactant | (E)-1-(5-(3,4-dichlorophenyl)furan-2-yl)prop-1-en-2-amine | 9.12 mmol, 2.72 g | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)\C=C(/C)\N | C13H11Cl2NO
solvent | MeOH | 135 ml | CO | CH4O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | HCl | Cl | ClH
solvent | MeOH | 32 ml | CO | CH4O
catalyst | Pd/C | 1.09 g | [Pd] | Pd
product | 1-(5-(3,4-dichlorophenyl)furan-2-yl)propan-2-amine hydrochloride | 0.811 g, 29% | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CC(C)N | InChI=1S/C13H13Cl2NO.ClH/c1-8(16)6-10-3-5-13(17-10)9-2-4-11(14)12(15)7-9;/h2-5,7-8H,6,16H2,1H3;1H
